US07601870B2
(3,5-Dimethyl-4-nitro-phenyl)-(4-trifluoromethyl-benzyl)-amine
3,5-Dimethyl-4-nitro-phenylamine (3.95 g) and 4-trifluoromethyl-benzaldehyde (4.87 mL) were dissolved in ethanol (50 mL) and refluxed for 16 h. The reaction mixture was poured into water (75 mL) and the precipitate collected by filtration. Sodium cyanoborohydride (3.1 g) and acetic acid (7.0 mL) were added to the precipitate dispersed in methanol (130 mL) and stirred for 60 minutes. The reaction mixture was filtered, water (350 mL) was added and the organic solvent was removed in vacuo. The product was allowed to precipitate at 25° C. and collected by filtration and washed with water (300 mL) to furnish 6.7 g (85% yield) of the title compound as a yellow solid. LC-MS (m/z) 325 (MH+); tR=2.00, (UV, ELSD) 92%, 93%. 1H NMR (500 MHz, CDCl3): 2.30 (s, 6H), 4.45 (broad, 3H), 6.25 (s, 2H), 7.45 (d, 2H), 7.60 (d, 2H).

reactant | 3,5-Dimethyl-4-nitro-phenylamine | 3.95 g | CC=1C=C(C=C(C1[N+](=O)[O-])C)N | C8H10N2O2
reactant | 4-trifluoromethyl-benzaldehyde | 4.87 mL | FC(C1=CC=C(C=O)C=C1)(F)F | C8H5F3O
reactant | water | 75 mL | O | H2O
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | (3,5-Dimethyl-4-nitro-phenyl)-(4-trifluoromethyl-benzyl)-amine | 6.7 g, 85% yield | CC=1C=C(C=C(C1[N+](=O)[O-])C)NCC1=CC=C(C=C1)C(F)(F)F | C16H15F3N2O2
